US05545755
To a solution of 7.3 g (50 mmol) 2-tetralone in 75 mL THF in a 3-neck round-bottomed flask, equipped with a gas inlet and septum, was added 36.7 mL LDA (55 mmol, 1.5M in cyclohexane) at -30° C. under a nitrogen atmosphere. The solution was allowed to warm to 0° C. over a 30-minute period and 5.6 mL (65 mmol) allyl bromide was added. TLC analysis was used to monitor the reaction. After stirring for 24 hours at room temperature, the reaction mixture was quenched with 10% sodium bisulfate to pH 2-3. After removal of THF under reduced pressure, the mixture was extracted with ethyl acetate (2×1 L) and the combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by liquid chromatography on 800 g of silica gel 60 (230-400 m), eluting with 1 L of hexane, followed by 5 L of 5% ethyl acetate/hexane, and collecting 40 mL fractions. Fractions 65-82 gave 3.1 g (33%) of pure 1,2,3,4-Tetrahydro-2-oxo-1-(2-propenyl)naphthalene as a light yellow oil.

reactant | 2-tetralone | 50 mmol, 7.3 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | LDA | 55 mmol, 1.5M, 36.7 mL | [Li+].CC(C)[N-]C(C)C
reactant | allyl bromide | 65 mmol, 5.6 mL | C(C=C)Br | C3H5Br
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 1,2,3,4-Tetrahydro-2-oxo-1-(2-propenyl)naphthalene | 3.1 g, 33% | O=C1C(C2=CC=CC=C2CC1)CC=C | C13H14O
